US04816461
1,1-Dimethyl-3-(3-methyl-5-nitrobenzothiophen-7-yl)-triazene
0.05 mole of 3-methyl-5-nitro-7-aminobenzothiophene is dissolved in 100 ml of concentrated sulphuric acid, while cooling with ice, and is diazotised at 10° C. by dropwise addition of 0.05 mole of nitrosylsulphuric acid. After 15 minutes, the mixture is poured onto 700 g of ice, 0.06 mole of dimethylamine (40% strength aqueous dimethylamine solution) is added and the mixture is rendered alkaline with 20% strength sodium hydroxide solution. The triazene is then extracted by shaking with methylene chloride and the organic solution is washed with water and dried over Na2SO4. The crystalline residue obtained after filtration and evaporation of the solvent is taken up in a little methylene chloride and chromatographed on Al2O3 (eluting agent: methylene chloride/cyclohexane (1:1)). The product obtained after evaporation of the eluate is recrystallised from isopropanol.

reactant | 3-methyl-5-nitro-7-aminobenzothiophene | 0.05 mole | CC1=CSC2=C1C=C(C=C2N)[N+](=O)[O-] | C9H8N2O2S
reactant | nitrosylsulphuric acid | 0.05 mole | N(=O)OS(O)(=O)=O | HNO5S
reactant | dimethylamine | 0.06 mole | CNC | C2H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1,1-Dimethyl-3-(3-methyl-5-nitrobenzothiophen-7-yl)-triazene | CN(N=NC1=CC(=CC=2C(=CSC21)C)[N+](=O)[O-])C | C11H12N4O2S
